US08106070B2
To a 25 mL one neck round bottom flask was added tert-butyl 4′-{2-[5-(cyclohexylmethyl)-1H-imidazol-2-yl]-1-methylethyl}biphenyl-2-carboxylate (35.7 mg), which was treated with a mixture of TFA/CH2Cl2 (1.5 mL/1.5 mL) at rt for 2 hours. Then the solvent was removed by rotary evaporation and the resulting residue was coevaporated with toluene/H2O three times. The resulting crude product was purified by PrepTLC (2000 uM, 10% MeOH/CH2Cl2) to afford 4′-[2-[5-(cyclohexylmethyl)-1H-imidazol-2-yl]-1-methylethyl]-[1,1′-biphenyl]-2-carboxylic acid. 1HNMR (CD3OD, 500 MHz, ppm): 7.52 (1H, br), 7.38 (2H, br), 7.32 (2H, br), 7.28 (1H, br), 7.10 (2H, br), 6.87 (1H, s), 3.20 (1H, br), 3.08 (1H, br), 2.99 (1H, br), 2.41 (2 h, br), 1.58-1.73 (4H, m), 1.48 (1H, m), 1.32 (3H, br), 1.14-1.22 (4H, m), 0.88 (2H, m); m/z (ES) (M+H)+=403).

reactant | tert-butyl 4′-{2-[5-(cyclohexylmethyl)-1H-imidazol-2-yl]-1-methylethyl}biphenyl-2-carboxylate | 35.7 mg | C1(CCCCC1)CC1=CN=C(N1)CC(C)C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C30H38N2O2
reactant | TFA CH2Cl2 | 1.5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 4′-[2-[5-(cyclohexylmethyl)-1H-imidazol-2-yl]-1-methylethyl]-[1,1′-biphenyl]-2-carboxylic acid | C1(CCCCC1)CC1=CN=C(N1)CC(C)C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C26H30N2O2
